US05756743
Ethyl 4-(3-cyanopropyl)-4-cyano-1-piperidinecarboxylate
To a solution of ethyl 4-(3-chloropropyl)-4-cyano-1-piperidinecarboxylate (12.7 g) in dimethylformamide (250 ml) was added sodium cyanide (24 g) under nitrogen, with stirring. The mixture was warmed at 140° C. overnight and then cooled to ambient temperature, diluted with water and extracted with ethyl acetate. The organic extracts were washed with saturated sodium chloride solution and water, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was chromatographed, eluting with 2:1 heptane/ethyl acetate. The appropriate fractions were collected and concentrated to give 10.8 g (88.5%) of product. A portion was distilled to give the analytical sample, bp196°-201° C. (4 mm of mercury).

reactant | ethyl 4-(3-chloropropyl)-4-cyano-1-piperidinecarboxylate | 12.7 g | ClCCCC1(CCN(CC1)C(=O)OCC)C#N | C12H19ClN2O2
reactant | sodium cyanide | 24 g | [C-]#N.[Na+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl 4-(3-cyanopropyl)-4-cyano-1-piperidinecarboxylate | 10.8 g, 88.5% | C(#N)CCCC1(CCN(CC1)C(=O)OCC)C#N | C13H19N3O2
